US07435815B2
N-Benzyl-N-(2-cyano-ethyl)-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid with 3-benzylamino-propionitrile

reactant | [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C16H17NO5S
reactant | 3-benzylamino-propionitrile | C(C1=CC=CC=C1)NCCC#N | C10H12N2
product | N-Benzyl-N-(2-cyano-ethyl)-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C1=C(C=CC=C1)OC)=O)CCC#N | C26H27N3O4S
